US09399636B2
Step 2: tert-butyl 3-(2,6-dichloropyridin-4-yl)pyrrolidine-1-carboxylate
A mixture of tert-butyl 3-(2,6-dichloro-4-pyridyl)-2,5-dihydropyrrole-1-carboxylate (126 mg, 0.399 mmol) and 5% Rh/C (20 mg) in absolute alcohol (12 mL) was purged with N2, then primed with H2 (balloon)/vacuum (3×), stirred under H2 balloon for o/n. It was purged with N2, filtered through Celite, washed the Celite with MeOH, concentrated in vacuo gave 121 mg (95.4%) of product as clear gum. It was carried on without further purification. LC-MS: m/z=318 (M+H+).

reactant | tert-butyl 3-(2,6-dichloro-4-pyridyl)-2,5-dihydropyrrole-1-carboxylate | 0.399 mmol, 126 mg | ClC1=NC(=CC(=C1)C=1CN(CC1)C(=O)OC(C)(C)C)Cl | C14H16Cl2N2O2
catalyst | Rh/C | 20 mg | [Rh] | Rh
product | tert-butyl 3-(2,6-dichloropyridin-4-yl)pyrrolidine-1-carboxylate | 121 mg, 95.4% | ClC1=NC(=CC(=C1)C1CN(CC1)C(=O)OC(C)(C)C)Cl | C14H18Cl2N2O2
